US08710043B2
Step 9. (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-2-oxo-2,3-dihydrooxazolo[4,5-c]pyridine-6-carboxamide
To a cooled (−78° C.) and stirred mixture of ((S)-5-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxypicolinamide (200 mg, 0.00045 mol) in THF (5 mL) was added TEA (0.31 mL, 0.002 mol, Spectrochem, India) and triphosgene (270 mg, 0.0009 mol, Spectrochem, India). The reaction mixture was stirred for 2 h at same temperature, slowly warmed to rt and stirred overnight. After completion of the reaction (monitored by TLC, 50% EtOAc in hexane), the reaction mixture was quenched with sat'd NaHCO3 (5 mL), extracted with EtOAc (10 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, concentrated and purified by column chromatography, silica gel (60-120 mesh) using 50-60% EtOAc in petroleum ether as the eluent, followed by further purification using Prep TLC plates, mobile phase 50% EtOAc in hexanes to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.79 (d, J=7.2 Hz, 1H), 9.00 (s, 1H), 8.53 (d, J=4.4 Hz, 1H), 8.41 (s, 1H), 8.08 (s, 1H), 7.44-7.35 (m, 1H), 7.35-7.31 (m, 3H), 7.26-7.21 (m, 1H), 6.64 (d, J=7.6 Hz, 1H). MS (ESI, positive ion) m/z: 467.2 (M+H).

reactant | (S)-5-amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-4-hydroxypicolinamide | 0.00045 mol, 200 mg | NC=1C(=CC(=NC1)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F)O | C19H13F5N4O3
reactant | triphosgene | 0.0009 mol, 270 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (S)—N-((3-Fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-2-oxo-2,3-dihydrooxazolo[4,5-c]pyridine-6-carboxamide | FC=1C=C(C=CC1OC(F)(F)F)[C@H](NC(=O)C1=CC2=C(C=N1)NC(O2)=O)C2=NC=CC=C2F | C20H11F5N4O4
